US04024145
3.4 G. of 2,4-diamino-5-(4-bromo-3,5-dimethoxybenzyl)-pyrimidine were suspended in 40 ml. of dioxane and treated with 2.4 g. of 3-chloroperbenzoic acid with stirring. The temperature rose to 38° C. and, after 5 minutes (no more oxidizing agent was detectable), an additional 1.2 g. of 3-chloroperbenzoic acid were added. A clear solution resulted which, after stirring for 15 minutes, became cloudy. After 2 hours, the white precipitate was removed by filtration under vacuum, washed with a small amount of dioxane and recrystallized from ethanol, whereby there was obtained 2,4-diamino-5-(4-bromo-3,5-dimethoxybenzyl)-pyrimidine N1 -oxide of melting point 277°-278° C.

reactant | 2,4-diamino-5-(4-bromo-3,5-dimethoxybenzyl)-pyrimidine | NC1=NC=C(C(=N1)N)CC1=CC(=C(C(=C1)OC)Br)OC | C13H15BrN4O2
reactant | 3-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2,4-diamino-5-(4-bromo-3,5-dimethoxybenzyl)-pyrimidine N1 -oxide | NC1=[N+](C=C(C(=N1)N)CC1=CC(=C(C(=C1)OC)Br)OC)[O-] | C13H15BrN4O3
